US04683330
(a) 4-Cyclohexylidene butanoic acid, methyl ester
A twice hexane washed suspension of 15.0 g (312 mmol) sodium hydride (50% in mineral oil) in 600 ml of dry dimethyl sulfoxide was heated under nitrogen at 60° C. for 1.5 hour, cooled to 15° C., and treated portionwise over 15 min with 60 g (140 mmol) of 3-carboxypropyl triphenylphosphonium bromide. The bright red solution was stirred at room temperature for 1 hour, then treated with 9.6 ml (93 mmol) of cyclohexanone in 100 ml of dry tetrahydrofuran, stirred 1 hour at room temperature, 2 hours at 40°-45° C., cooled to 0° C., quenched with 10 ml of water, diluted with 600 ml of ice water containing 50 ml of concentrated sulfuric acid and 250 ml of brine, and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resulting yellow oil was dissolved in 500 ml of acetonitrile, degassed, treated with 25 ml (143 mmol) of diisopropylethylamine and 50 ml (792 mmol) of methyliodide, stirred for 18 hours under nitrogen at room temperature, diluted with 250 ml of ethyl acetate, washed with 5% sodium sulfate and with saturated aqueous sodium bicarbonate. The organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, concentrated in vacuo, and chromatographed on Silica Gel eluting with ethyl acetate in hexane to give 11.43 g (68%) of the title compound as a pale yellow oil.

reactant | sodium hydride | 312 mmol, 15.0 g | [H-].[Na+]
reactant | 3-carboxypropyl triphenylphosphonium bromide | 140 mmol, 60 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cyclohexanone | 93 mmol, 9.6 ml | C1(CCCCC1)=O | C6H10O
reactant | diisopropylethylamine | 143 mmol, 25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyliodide | 792 mmol, 50 ml | CI | CH3I
solvent | dimethyl sulfoxide | 600 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-Cyclohexylidene butanoic acid, methyl ester | 11.43 g, 68% | C1(CCCCC1)=CCCC(=O)OC | C11H18O2
